US06949579B2
N-[6-(1,3-benzodioxol-5-yl)-1H-indazol-3-yl]butanamide
2 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 600 mg of N-[6-(benzodioxol-5-yl)-1-[[2-(trimethylsilyl)ethoxy]methoxy]-1H-indazol-3-yl]butanamide, described previously, in 12 cm3 of tetrahydrofuran. The medium is then maintained at 67° C. for 16 hours. The mixture is then allowed to return to 19° C. and 60 μm3 of ethyl acetate are added, after which it is washed with 30 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 2×30 cm3 of distilled water and finally with 30 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and evaporated under reduced pressure (2 kPa; 45° C.). The residue obtained is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 15-40 μm; diameter 3 cm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume) and collecting 15 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 260 mg of N-[6-(1,3-benzodioxol-5-yl)-1H-indazol-3-yl]butanamide are obtained in the form of a white solid melting at 240° C.

reactant | tetrabutylammonium fluoride | 2 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(benzodioxol-5-yl)-1-[[2-(trimethylsilyl)ethoxy]methoxy]-1H-indazol-3-yl]butanamide | 600 mg | O1OCC2=C1C=CC(=C2)C2=CC=C1C(=NN(C1=C2)OCOCC[Si](C)(C)C)NC(CCC)=O | C24H31N3O5Si
reactant | ethyl acetate | 60 μm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 cm3 | O1CCCC1 | C4H8O
product | N-[6-(1,3-benzodioxol-5-yl)-1H-indazol-3-yl]butanamide | O1COC2=C1C=CC(=C2)C2=CC=C1C(=NNC1=C2)NC(CCC)=O | C18H17N3O3
